US09085637B2
Synthesis of 16-sulfo-hexadecanoic acid
Solutions of sodium sulfite (327 g, 2.60 mol) in water (1.26 L) and 16-bromo-hexadecanoic acid methyl ester (728 g, 2.00 mol, 96% purity) in 1-propanol (945 mL) and methanol (420 mL) were heated to reflux in 6 L reactor equipped with mechanical stirrer for 48 hours. The reaction mixture was cooled to 27° C. and diluted with tetrahydrofuran (2 L). Reaction mixture was filtered and solid material was washed with tetrahydrofuran (3×700 mL). Filtrate was cooled to 0° C. and another portion of material was precipitated. This precipitate was filtered and washed with tetrahydrofuran (2×200 mL). Solids were combined and mixed with water (8.4 L) in 20 L pot. Solution of sodium hydroxide (120 g, 3.00 mol) was added. The mixture was heated to boiling for about 5 hours. Solution of sulfuric acid (430 mL, 8.00 mol) in water (500 mL) was slowly added into the reaction mixture (sulfur dioxide is formed). Reaction mixture was heated to boiling for 10 minutes and then let to cool to 15° C. (ice bath). The mixture was filtered on Büchner funnel through filter paper Seitz (several layers filter) applying vacuo. This procedure was very slow and took two days. Solid material was several times washed with distilled water until pH of filtrate was between 2 and 3. This procedure took about three days. Muddy white material was dried in oven at 80° C. giving desired product.

reactant | sodium sulfite | 2.60 mol, 327 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | 16-bromo-hexadecanoic acid methyl ester | 2.00 mol, 728 g | COC(CCCCCCCCCCCCCCCBr)=O | C17H33BrO2
reactant | sodium hydroxide | 3.00 mol, 120 g | [OH-].[Na+]
reactant | sulfuric acid | 8.00 mol, 430 mL | S(O)(O)(=O)=O | H2O4S
reactant | sulfur dioxide | S(=O)=O | O2S
solvent | water | 1.26 L | O | H2O
solvent | 1-propanol | 945 mL | C(CC)O | C3H8O
solvent | tetrahydrofuran | 2 L | O1CCCC1 | C4H8O
solvent | water | 500 mL | O | H2O
solvent | methanol | 420 mL | CO | CH4O
product | 16-sulfo-hexadecanoic acid | S(=O)(=O)(O)CCCCCCCCCCCCCCCC(=O)O | C16H32O5S
